US07615651B2
Preparation of Intermediate (4′-{[1-Dimethylamino-methylidene]-carbamoyl}-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-7a-1)
(4′-Carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-4-b: 200.0 mg, 0.487 mmol) was dissolved in dimethylformamide dimethylacetal (5.0 ml) and heated to 120° C. After 2 hours, the reaction mixture was cooled to room temperature and the volatiles removed under reduced pressure. The resulting residue was used in the next reaction without further purification.

reactant | (4′-Carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 0.487 mmol, 200.0 mg | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(N)=O)C)=O | C25H34N2O3
solvent | dimethylformamide dimethylacetal | 5.0 ml | COC(N(C)C)OC | C5H13NO2
product | (4′-{[1-Dimethylamino-methylidene]-carbamoyl}-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(N=CN(C)C)=O)C)=O | C28H39N3O3
